US08791132B2
A solution of 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-(6-methoxy-pyridin-3-yl)-ethanol (200 mg, 0.569 mmol) in 3N HCl (8 mL) was stirred at 100° C. for 3 h. The reaction mixture was concentrated under reduced pressure and residue was purified by reverse phase HPLC to yield 5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-hydroxyethyl)pyridin-2(1H)-one. 1H NMR (CD3OD, TFA salt) δ (ppm): 7.5 (m, 1H), 7.23 (s, 1H), 7.2 (s, 1H), 7.19 (d, 1H), 6.5 (s, 1H), 4.62 (d, 1H), 4.19-4.37 (m, 3H), 3.8 (m, 1H), 3.5 (m, 1H), 3.24 (m, 2H), 3.1 (m, 4H), 2.4 (s, 3H). Separation by chiral HPLC provides enantiomers II-92a-b.

reactant | 2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-1-(6-methoxy-pyridin-3-yl)-ethanol | 0.569 mmol, 200 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=NC(=CC2)OC)CC1 | C21H25N3O2
solvent | HCl | 3N, 8 mL | Cl | ClH
product | 5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)-1-hydroxyethyl)pyridin-2(1H)-one | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(O)C=2C=CC(NC2)=O)CC1 | C20H23N3O2
